US08563617B2
304.2 [7-(2-Amino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester
To [7-(2-benzyloxycarbonylamino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester (500 mg, 0.960 mmol) was added at room temperature 8 ml of 33% HBr in acetic acid. After 2 h the mixture was diluted with CH2Cl2, washed twice with NaHCO3, dried and filtered. The solvent was evaporated to obtain the product as a yellow oil (392 mg), which was used without further purification.

reactant | [7-(2-benzyloxycarbonylamino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | 0.960 mmol, 500 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCNC(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)Cl)=O | C30H33ClN2O4
reactant | HBr | 8 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [7-(2-Amino-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | 392 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCN)CC1=CC(=CC=C1)Cl)=O | C22H27ClN2O2
